US06500863B1
3-amino-6-chloro-N-cyclopropylmethyl-2-hydroxybenzenesulfonamide
Following the general hydrogenation procedure outlined in example 15, 6-chloro-N-cyclopropylmethyl-2-hydroxy-3-nitrobenzenesulfonamide (0.1 g, 3.2 mmol) was reduced with hydrogen and 10% Pd/C (0.1 g) to form the desired product (0.08 g, 89%). LC-MS m/z 277 (M+).

reactant | 6-chloro-N-cyclopropylmethyl-2-hydroxy-3-nitrobenzenesulfonamide | 3.2 mmol, 0.1 g | ClC1=CC=C(C(=C1S(=O)(=O)NCC1CC1)O)[N+](=O)[O-] | C10H11ClN2O5S
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 0.1 g | [Pd] | Pd
product | 3-amino-6-chloro-N-cyclopropylmethyl-2-hydroxybenzenesulfonamide | 0.08 g, 89% | NC=1C(=C(C(=CC1)Cl)S(=O)(=O)NCC1CC1)O | C10H13ClN2O3S
